US06339090B1
(−)-4-(3,4Difluorophenyl)-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic Acid
To a solution of (−)-4-(3,4-Difluorophenyl)-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid methyl ester (450 mg, 1.68 mmol) in 15 mL MeOH was added 1M NaOH (28 mL, 28.0 mmol). The solution was stirred under argon at room temperature for 6 h, poured 10% potassium hydrogen sulfate, and extracted with ethyl acetate. The combined organic layers were washed with saturated sodium chloride, dried with magnesium sulfate, and concentrated in vacuo to give the product. 1H NMR dH (DMSO) 9.17 (d, 1H, J=5.37Hz), 7.69 (s, 1H), 7.50-7.35 (m, 1H), 7.30-7.20 (m, 2H), 7.15-7.05 (m, 1H), 5.13 (d, 1H, J 2.44).

reactant | (−)-4-(3,4-Difluorophenyl)-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid methyl ester | 1.68 mmol, 450 mg | COC(=O)C=1C(NC(NC1)=O)C1=CC(=C(C=C1)F)F | C12H10F2N2O3
reactant | NaOH | 28.0 mmol, 1M, 28 mL | [OH-].[Na+]
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | MeOH | 15 mL | CO | CH4O
product | (−)-4-(3,4Difluorophenyl)-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic Acid | FC=1C=C(C=CC1F)C1NC(NC=C1C(=O)O)=O | C11H8F2N2O3
